US06313122B1
B. 2-Amino-N-(4-fluorophenyl)benzamide
To a stirred solution of N-(4-fluorophenyl)-2-nitrobenzamide (4.0 g, 15.4 mmol) in methanol (220 mL) and tetrahydrofuran (110 mL) was added nickel acetate tetrahydrate (7.7 g, 31 mmol). Sodium borohydride (2.3 g, 62 mmol) was added in small portions. After gas evolution had ceased, the solvent was removed in vacuo. The residue was partitioned between ethyl acetate and concentrated ammonium hydroxide, and the layers were separated. The organic phase was washed with concentrated ammonium hydroxide and saturated aqueous sodium chloride solution, dried (magnesium sulfate), filtered, and concentrated in vacuo to give 2.86 g (81%) of the title compound as an off-white solid.

reactant | N-(4-fluorophenyl)-2-nitrobenzamide | 15.4 mmol, 4.0 g | FC1=CC=C(C=C1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C13H9FN2O3
reactant | Sodium borohydride | 62 mmol, 2.3 g | [BH4-].[Na+]
solvent | methanol | 220 mL | CO | CH4O
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
catalyst | nickel acetate tetrahydrate | 31 mmol, 7.7 g | O.O.O.O.C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
product | 2-Amino-N-(4-fluorophenyl)benzamide | 2.86 g, 81% | NC1=C(C(=O)NC2=CC=C(C=C2)F)C=CC=C1 | C13H11FN2O
